US04861780
(e) 2-[(4-Methoxy-5-methylpyridin-2-yl)methylthio]-3-phenyl-4(3H)-quinazolinone
The title compound was prepared in a yield of 22.5%, using 2-mercapto-3-phenyl-4(3H)-quinazolinone in place of 2-mercapto-6-methyl-3-phenyl-4(3H)-quinazolinone and 2-chloromethyl-4-methoxy-5-methylpyridine in place of 2chloromethylpyridine hydrochloride.

reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | 2-chloromethyl-4-methoxy-5-methylpyridine | ClCC1=NC=C(C(=C1)OC)C | C8H10ClNO
product | 2-[(4-Methoxy-5-methylpyridin-2-yl)methylthio]-3-phenyl-4(3H)-quinazolinone | yield of 22.5% | COC1=CC(=NC=C1C)CSC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C22H19N3O2S
